US06034239
3-(7-Bromo-2,3-dihydrobenzofuran-5-yl)propionic Acid
An aqueous solution (100 ml) of sodium hydroxide (15 g) was added to a tetrahydrofuran (20 ml) solution of ethyl 3-(7-bromo-2,3-dihydrobenzofuran-5-yl)propionate (19.1 g, 63.8 mmols), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was made acidic with hydrochloric acid added thereto, and this was then extracted with ethyl acetate. The extract was washed with a saturated saline solution, then dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/hexane to obtain 12.8 g (yield: 73%) of the target compound.

reactant | sodium hydroxide | 100 ml, 15 g | [OH-].[Na+]
reactant | ethyl 3-(7-bromo-2,3-dihydrobenzofuran-5-yl)propionate | 63.8 mmols, 19.1 g | BrC1=CC(=CC=2CCOC21)CCC(=O)OCC | C13H15BrO3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(7-Bromo-2,3-dihydrobenzofuran-5-yl)propionic Acid | 12.8 g, yield: 73% | BrC1=CC(=CC=2CCOC21)CCC(=O)O | C11H11BrO3
